US07452901B2
A mixture of 7-hydroxy-6-(4-hydroxy-3-methyl-but-2-enyl)-5-methoxy-4-methyl-3H-isobenzofuran-1-one (50 mg, 0.18 mmol, Pankiewicz et al., J. Med. Chem. 2002, 45, 703), diisopropyl bromomethylphosphonate (93 mg, 0.36 mmol) and lithium t-butoxide (1M in THF, 0.54 mL) in DMF (3 mL) was heated at 70° C. for 5 h. The reaction was quenched with 1N HCl. The mixture was poured into 5% aqueous lithium chloride, extracted with ethyl acetate, and concentrated. The residue was purified by chromatography on silica gel, affording [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid diisopropyl ester as an oil (25 mg, 32%); 1H NMR (300 MHz, CDCl3) δ 1.25 (m, 12H), 1.79 (s, 3H), 2.05 (s, 3H), 3.37 (d, J=6.6 Hz, 2H), 3.58 (d, 2H), 3.77 (s, 3H), 3.97 (m, 2H), 4.68 (m, 2H), 5.19 (s, 2H), 5.45 (t, J=6.6 Hz, 1H), 7.83 (s, 1H).

reactant | 7-hydroxy-6-(4-hydroxy-3-methyl-but-2-enyl)-5-methoxy-4-methyl-3H-isobenzofuran-1-one | 0.18 mmol, 50 mg | OC=1C(=C(C(=C2COC(C12)=O)C)OC)CC=C(CO)C | C15H18O5
reactant | diisopropyl bromomethylphosphonate | 0.36 mmol, 93 mg | BrCP(OC(C)C)(OC(C)C)=O | C7H16BrO3P
reactant | lithium t-butoxide | 1M, 0.54 mL | CC(C)([O-])C.[Li+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid diisopropyl ester | 25 mg, 32% | C(C)(C)OP(OC(C)C)(=O)COCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C22H33O8P
